US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (1 g, 5 mmol) in 10 mL DMF, was added sodium hydride (600 mg, 15 mmol) portionwise under nitrogen at 0° C. and stirred for 10 min. 3-Oxiranyl-pyridine (908 mg, 15.0 mmol) was added dropwise under nitrogen and the reaction mixture stirred at RT for 12 h. After the complete conversion of starting material (TLC and LCMS), the reaction mixture was poured in ice-cold water and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (5×50 mL), dried over anhydrous sodium sulfate, and concentrated. The crude mixture was purified by reverse phase chromatography to obtain 290 mg of 2-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-1-pyridin-3-yl-ethanol. 1H NMR (CDCl3, freebase) δ (ppm): 8.62 (s, 1H), 8.57 (d, 1H), 7.67 (d, 1H), 7.3 (m, 2H), 7.19 (d, 1H), 7.01 (d, 1H), 5.09 (t, 1H), 4.13 (m, 2H), 3.70 (d, 1H), 3.36 (d, 1H), 2.79 (m, 3H), 2.703 (m, 1H), 2.5 (s, 3H), 2.45 (s, 3H). Separation by chiral HPLC provided enantiomers 43a and 43b.

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 5 mmol, 1 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | sodium hydride | 15 mmol, 600 mg | [H-].[Na+]
reactant | 3-Oxiranyl-pyridine | 15.0 mmol, 908 mg | O1C(C1)C=1C=NC=CC1 | C7H7NO
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-dimethyl-1,2,3,4-tetrahydro-β-carbolin-9-yl)-1-pyridin-3-yl-ethanol | 290 mg | CN1CC=2N(C3=CC=C(C=C3C2CC1)C)CC(O)C=1C=NC=CC1 | C20H23N3O
